US05236952
9.5 g of 3,4-dimethoxy-5-nitrobenzoic acid are suspended in 95 ml of thionyl chloride. The suspension is stirred at 80° for 1 hour. By two-fold evaporation with the addition of absolute toluene there are obtained 10 g of 3,4-dimethoxy-5-nitrobenzoyl chloride which is dissolved in 100 ml of tetrahydrofuran. This solution is added dropwise to 300 ml of 28 percent aqueous ammonia. The mixture is subsequently stirred at 40° for 2 hours and cooled to 5°. The crystalline precipitate is filtered off. There is obtained 3,4-dimethoxy-5-nitrobenzamide of m.p. 182°-185°.

reactant | 3,4-dimethoxy-5-nitrobenzoic acid | 9.5 g | COC=1C=C(C(=O)O)C=C(C1OC)[N+](=O)[O-] | C9H9NO6
reactant | thionyl chloride | 95 ml | S(=O)(Cl)Cl | Cl2OS
product | 3,4-dimethoxy-5-nitrobenzoyl chloride | 10 g | COC=1C=C(C(=O)Cl)C=C(C1OC)[N+](=O)[O-] | C9H8ClNO5
